US08183386B2
53.3 g (0.334 mol) of bromine was added dropwise to a solution consisting of 61.1 g (0.332 mol) of 1-propionaphthone and 180 mL of ethanol at 50 to 55° C. After completion of addition, the ethanol was distilled off in vacuo, and the resulting concentrate was dissolved in 130 mL of toluene, washed with a mixed aqueous solution of sodium bicarbonate and sodium chloride (150 mL×two times), and then dried over sodium sulfate to obtain a toluene solution of 2-bromo-1′-propionaphthone.

reactant | bromine | 0.334 mol, 53.3 g | BrBr | Br2
reactant | 1-propionaphthone | 0.332 mol, 61.1 g | CCC(=O)C1=CC=CC2=CC=CC=C21 | C13H12O
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 2-bromo-1′-propionaphthone | BrC(C(=O)C1=CC=CC2=CC=CC=C12)C | C13H11BrO
